US04118461
1. 2,4-Dichlorovalerophenone
To 48.0 g. (0.398 mole) of valeryl chloride in 100.0 g. (0.680 mole) of m-dichlorobenzene is added portionwise at less than 5°,66.7 g. (0.5 mole) of aluminum chloride. When the addition is complete, the reaction mixture is allowed to stir and slowly warm up to ambient temperature for 2 hours. It is then heated at reflux for 3 hours, and stirred at room temperature for 16 hours. The reaction mixture is poured into iced water, and made acidic with hydrochloric acid. The oil which formed separates, and the aqueous phase is extracted twice with 200 ml. of ether. The oil and the extracts are combined, washed with water, dried and concentrated to give 122.2 g. of the crude product. A distillation (89°-93°/.05 mm) gives 55.2 g. (60%) of the product.

reactant | valeryl chloride | 0.398 mole | C(CCCC)(=O)Cl | C5H9ClO
reactant | m-dichlorobenzene | 0.680 mole | ClC1=CC(=CC=C1)Cl | C6H4Cl2
reactant | aluminum chloride | 0.5 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2,4-Dichlorovalerophenone | ClC(C(=O)C1=CC=CC=C1)CC(C)Cl | C11H12Cl2O
